US07034039B2
A solution of 6-(benzyloxy)-3-(chloromethyl)-2-isobutyl-4-(2-thienyl)-1(2H)-isoquinolinone (1.31 g, 3 mmol) and potassium phthalimide (0.83 g, 4.5 mmol) in N,N-dimethylformamide (20 ml) was stirred at room temperature for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2-{[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methyl}-1H-isoindole-1,3(2H)-dione (1.42 g, 86.6%) as an amorphous solid.

reactant | 6-(benzyloxy)-3-(chloromethyl)-2-isobutyl-4-(2-thienyl)-1(2H)-isoquinolinone | 3 mmol, 1.31 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CCl)C=1SC=CC1 | C25H24ClNO2S
reactant | potassium phthalimide | 4.5 mmol, 0.83 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-{[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methyl}-1H-isoindole-1,3(2H)-dione | 1.42 g, 86.6% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)C=1SC=CC1 | C33H28N2O4S
